US06545016B1
Triethylamine (102 mL, 742 mmol) was added to a cooled (ice bath) mixture of 6-chloro-4-hydroxy-5-methyl-3-nitro-1H-pyridin-2-one (50.6 g, 247 mmol) and anhydrous dichloromethane (1800 mL). Trifluoromethanesulfonic anhydride (83.2 mL, 495 mmol) was added drop wise over a period of 45 minutes. After 1 hour, tert-butyl 4-aminobutylcarbamate (51.2 g, 272 mmol) was added over period of 20 minutes. The reaction was allowed to warm to ambient temperature overnight. The reaction mixture was washed with water (4×1 L), dried over magnesium sulfate, and then concentrated under reduced pressure to provide an orange oil. The oil was purified by chromatography (1100 mL of silica gel eluting with 50/50 ethyl acetate/hexanes to provide 93.5g 4-({4-[(tert-butoxycarbonyl)amino]butyl}amino)-6-chloro-5-methyl-3-nitropyridin-2-yl trifluoromethanesulfonate as a yellow oil.

reactant | Triethylamine | 742 mmol, 102 mL | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-4-hydroxy-5-methyl-3-nitro-1H-pyridin-2-one | 247 mmol, 50.6 g | ClC1=C(C(=C(C(N1)=O)[N+](=O)[O-])O)C | C6H5ClN2O4
reactant | Trifluoromethanesulfonic anhydride | 495 mmol, 83.2 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tert-butyl 4-aminobutylcarbamate | 272 mmol, 51.2 g | NCCCCNC(OC(C)(C)C)=O | C9H20N2O2
solvent | dichloromethane | 1800 mL | ClCCl | CH2Cl2
product | 4-({4-[(tert-butoxycarbonyl)amino]butyl}amino)-6-chloro-5-methyl-3-nitropyridin-2-yl trifluoromethanesulfonate | 93.5g | FC(S(=O)(=O)OC1=NC(=C(C(=C1[N+](=O)[O-])NCCCCNC(=O)OC(C)(C)C)C)Cl)(F)F | C16H22ClF3N4O7S
